2154-03-06 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CTA negative for PE
   - Mini BAL performed.  Culture pending.
   - Woke up well with weaned sedation.  Unable to wean pressure support
   at first so no extubation.  PS 18 --> 15, then rested overnight.
   - PICC line for AM.
   - Bactrim discontinued
   - lasix 20mg IV x 2, goal even
   - TTE - no wall motion abnormalities
   - Vanc level 18, continued at q 24 hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-5**] 09:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-3-6**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2154-3-5**] 02:50 PM
   Midazolam (Versed) - [**2154-3-5**] 02:50 PM
   Heparin Sodium (Prophylaxis) - [**2154-3-6**] 12:30 AM
   Furosemide (Lasix) - [**2154-3-6**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-6**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 65 (64 - 83) bpm
   BP: 112/50(65) {87/44(47) - 120/74(83)} mmHg
   RR: 15 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (1 - 13)mmHg
   Total In:
                                                                  3,401 mL
                                                                    433 mL
   PO:
   TF:
   IVF:
                                                                  3,376 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    875 mL
   Urine:
                                                                    570 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                   -442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 283 (283 - 399) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/39/68/27/1
   Ve: 4.7 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   10.0 g/dL
   90 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.6 mEq/L
   36 mg/dL
   106 mEq/L
   141 mEq/L
   31.2 %
   14.1 K/uL
        [image002.jpg]
                             [**2154-3-5**]  05:39 AM
                             [**2154-3-5**]  09:54 AM
                             [**2154-3-5**]  04:06 PM
                             [**2154-3-5**]  11:47 PM
                             [**2154-3-6**]  03:54 AM
   WBC
   16.4
   14.1
   Hct
   33.1
   31.2
   Plt
   333
   279
   Cr
   1.1
   1.1
   1.2
   TropT
   0.19
   TCO2
   21
   27
   Glucose
   46
   99
   90
   Other labs: PT / PTT / INR:16.5/44.6/1.5, CK / CKMB /
   Troponin-T:72//0.19, ALT / AST:163/219, Alk Phos / T Bili:328/0.6,
   Amylase / Lipase:55/17, Differential-Neuts:90.9 %, Lymph:6.7 %,
   Mono:2.3 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:445 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   CTA PE [**2154-3-5**]:
   1. No evidence for pulmonary embolism.
   2. Marked right lower lobe atelectasis and moderate right pleural
   effusion.
   3. Low lying ETT terminating just above the carina.
   4. See CT torso from 12 hours prior for further details of abdominal
   findings.
   .
   TTE [**2154-3-5**]:
   The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is severely depressed (LVEF=
   15-20 %) with basal inferior akinesis/dyskinesis and hypokinesis
   elsewhere. Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). The right ventricular
   cavity is mildly dilated with depressed free wall contractility. The
   aortic valve leaflets (3) are mildly thickened. There is no aortic
   valve stenosis. No aortic regurgitation is seen. There is moderate
   thickening of the mitral valve chordae. Mild (1+) mitral regurgitation
   is seen. The tricuspid valve leaflets are mildly thickened. There is
   mild pulmonary artery systolic hypertension. Significant pulmonic
   regurgitation is seen. There is no pericardial effusion.
   .
   CT abd/pelvis w/o contrast [**2154-3-5**]:
   1. Endotracheal tube requires partial retraction, other devices/lines
   in
   satisfactory position.
   2. Large right pleural effusion with associated right lower lobar
   collapse;
   not possible to exclude pneumonia.
   3. Ascites, but no specific abdominal process identified.
   Assessment and Plan
   The pt is a 74y/o F with a PMH of CAD, DM, recent diagnosis of
   cholangiocarcinoma with metaseses to the transverse colon s/p resection
   and PEG placement admitted s/p PEA arrest.
   .
   # PEA Arrest - unclear precipitating event. Pt with multiple potential
   sources of infection which could lead to hypovolemia however lactate
   only elevated to 1.4 - recent history of bacteremia as well as PNA, hx
   of cholangiocarcinoma with biliary stent, no clear evidence of hypoxia
   documented at rehab or ED prior to arrest as trigger. Hyperkalemia
   possible factor with K of 6.0, FS not dramatically abnormal, no
   evidence of tamponade on fast exam in ED, consider cardiac ischemia
   with trop elevated to 0.6 however this not unexpected post-arrest and
   quickly trending down. Given risk factors of HR>100, immobilization and
   malignancy risk for PE is approx 37% by Well
s Criteria. Given risk of
   bleed post CPR and malignancy as well as recent surgery will hold on
   empiric anticoagulation while awaiting CTA
   - Continue supportive care with intubation, pressor
   - CTA to rule out PE and TTE to assess for cardiac function
   - Work up infectious etiology for sepsis with blood cultures, urine
   cultures (UA clear), sputum culture, would pursue diagnostic
   thoracentesis of R pleural effusion
   - Continue broad spectrum antimicrobials with vanc/zosyn, will continue
   bactrim for now, obtain OSH data
   - Trend cardiac enzymes
   - Check TTE
   .
   # Leukocytosis - WBC 19.0 at OSH, 25.3 here with left shift, no fever
   reported. Pt with recent history of MRSA bacteremia and pneumonia.
   Leukocytosis may be reactive in setting or arrest, given pt hemodynamic
   instability and unclear source of arrest will continue broad spectrum
   antimicrobials awaiting culture data
   - continue vanc/zosyn/bactrim as above
   - f/u final read of CT A/P
   - consider diagnostic thoracentesis
   - f/u blood/urine/sputum cultures
   - trend LFTs and consider ERCP drainage if evidence of obstruction
   - trend CE as above
   - obtain OSH data
   .
   # Pleural Effusion - per OSH notes the pt has a history of PNA and R
   sided pleural effusion, unclear if previous diagnostic thoracentesis
   - consider diagnostic/therapuetic thoracentesis
   - f/u final read Chest CT to eval for PNA
   - Continue previous bactrim course for now with Vanc/Zosyn
   .
   # Metastatic Cholangiocarcinoma - pt with recent diagnosis and
   complicated course including mets to transverse colon s/p resection.
   Tumor unresectable, felt to have poor likelihood of tolerating
   chemotherapy per OSH oncology notes
   - trend LFTs
   - obtain OSH records re baseline
   .
   # Guaiac + stools - The pt was found to have grossly + stool guaiac
   from ostomy site
   - Trend HCT Q 8
   - Type and Screen
   - IV PPI
   .
   # Bowel obstruction s/p R colectomy - hold TF tonight pending further
   workup, plan to continue TF
   .
   # CAD s/p CABG [**2147**] - Cotnineu Zocor, holding lasix, ACE-I, lopressor
   given hypotension
   - trend CE as above
   .
   # Diabetes Mellitus - continue lantus and RISS
   .
   # FEN: bolus IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, VAP bundle
   .
   # Access: L CVL
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2154-3-5**] 04:25 AM
   20 Gauge - [**2154-3-5**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-03-06 10:29:00 Physician Attending Progress Note
Chief Complaint: REA arrest, RLL pneumonia, effusion
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2154-3-5**] 10:02 AM
 BAL FLUID CULTURE - At [**2154-3-5**] 02:00 PM
 BLOOD CULTURED - At [**2154-3-6**] 12:15 AM
   CTA neg for PE
   Woke up later yesterday
   Requiring high PS yesterday
   attempted to diurese
   Poor EF on TTE which is new since [**2153**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-5**] 09:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-3-6**] 06:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2154-3-5**] 02:50 PM
   Midazolam (Versed) - [**2154-3-5**] 02:50 PM
   Furosemide (Lasix) - [**2154-3-6**] 12:30 AM
   Pantoprazole (Protonix) - [**2154-3-6**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2154-3-6**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-6**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 77 (64 - 83) bpm
   BP: 126/55(73) {87/44(47) - 126/74(83)} mmHg
   RR: 14 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (1 - 13)mmHg
   Total In:
                                                                  3,401 mL
                                                                    473 mL
   PO:
   TF:
   IVF:
                                                                  3,376 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    900 mL
   Urine:
                                                                    570 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 283 (283 - 399) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/39/68/27/1
   Ve: 4.7 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General: Intubated, sedated, chronically ill-appearing
   HEENT: Sclera anicteric, MMM, oropharynx clear, NGtube and ET tube in
   place
   Neck: supple, JVP 7, no LAD, L SC
   Lungs: Crackles, bronchial R anterior, L clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, midline incision with pus and erythema, PEG
   tube site C/D/I, ostomy with liquid stool, guaiac +, non-distended,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   Ext: cool, 1+ pulses, no edema, multiple scars lower ext b/l
   Labs / Radiology
   10.0 g/dL
   279 K/uL
   90 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.6 mEq/L
   36 mg/dL
   106 mEq/L
   141 mEq/L
   31.2 %
   14.1 K/uL
        [image002.jpg]
                             [**2154-3-5**]  05:39 AM
                             [**2154-3-5**]  09:54 AM
                             [**2154-3-5**]  04:06 PM
                             [**2154-3-5**]  11:47 PM
                             [**2154-3-6**]  03:54 AM
   WBC
   16.4
   14.1
   Hct
   33.1
   31.2
   Plt
   333
   279
   Cr
   1.1
   1.1
   1.2
   TropT
   0.19
   TCO2
   21
   27
   Glucose
   46
   99
   90
   Other labs: PT / PTT / INR:16.5/44.6/1.5, CK / CKMB /
   Troponin-T:72//0.19, ALT / AST:163/219, Alk Phos / T Bili:328/0.6,
   Amylase / Lipase:55/17, Differential-Neuts:90.9 %, Lymph:6.7 %,
   Mono:2.3 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:445 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   Imaging: TTE: EF 15-20%, basilar/inf a and dyskinesis, otherwise
   hypokinesis elsewhere, 1+ MR, no pericardial effusion (EF 50% in [**Month (only) **]
   [**2153**] at [**Hospital1 12**])
   Microbiology: Mini BAL: 4+ WBC, no orgms
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 IMPAIRED SKIN INTEGRITY
 .H/O CARDIAC ARREST
   74y/o F with a PMH of CAD, DM, recent diagnosis of cholangiocarcinoma
   with metaseses to the transverse colon s/p resection and PEG placement
   admitted s/p PEA arrest.  PE and tamponade ruled out. New
   cardiomyopathy on TTE. Mental status improved
   Card: severe cardiomyopathy, new since [**2153**]. Repeat TTE in a few
   days/weeks to look for improvement in global function.
   Resp failure: Pneumonia on CT, no PE, thoracentesis today to look for
   exudate/empyema.  [**Month (only) 8**] need bronch if lung doesn
t re-expand. On Vanc
   and Zosyn. Daily wake up and SBT checks.
   Onc: not a candidate for further [**Last Name (LF) 2051**], [**First Name3 (LF) 77**] oncologist, until
   functional status improves.
   Wound: ostomy nurse [**First Name (Titles) **]
[**Last Name (Titles) **] DM: Lantus half dose + ssi
   I/O: keep even, bolus for UO
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale, Comments: + lantus
   Lines:
   Multi Lumen - [**2154-3-5**] 04:25 AM
   20 Gauge - [**2154-3-5**] 10:00 AM
   Comments: picc line today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: t/b with daughter today
   [**Name2 (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2154-03-07 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Low UOP <20 cc/hour; no response to 500 cc fluid bolus
   - Gave Vitamin K 1 mg IV for coagulopathy
   - Diagnostic thoracentesis performed with 20 cc's serous fluid removed;
   pleural fluid consistent with transudate & gram stain negative
   - Post-thoracentesis CXR showed interval improvement
   - GNR growing from BAL culture, speciation pending
   - PICC placed
   - CVL from OSH removed and tip sent for culture
   - Weaned sedation and started Fentanyl 25 mcg TD (home pain regimen)
   - Extubated in PM; gave Lasix 20 mg IV at time of extubation
   - Vanc trough 29; plan to recheck in AM
   - started Metoprolol 12.5 mg TID for cardiomyopathy; uptitrated to 25
   mg TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-5**] 09:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-3-7**] 05:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-3-6**] 07:58 AM
   Furosemide (Lasix) - [**2154-3-6**] 07:02 PM
   Heparin Sodium (Prophylaxis) - [**2154-3-7**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-7**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 81 (74 - 93) bpm
   BP: 116/55(70) {96/49(61) - 135/81(92)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (5 - 11)mmHg
   Total In:
                                                                  1,425 mL
                                                                    353 mL
   PO:
   TF:
   IVF:
                                                                  1,305 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,392 mL
                                                                    130 mL
   Urine:
                                                                    742 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 360 (359 - 402) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 4.6 L/min
   Physical Examination
   Gen: alert and awake, in NAD
   HEENT: MMM, JVP 8-9cm
   Heart: S1S2 RRR
   Lungs: rhonchi in anterior lung fields
   Abdomen:  healing surgical scar, improved erythema around it.  Has
   colostomy tube.  Soft NTND
   Ext: WWP
   Neuro: follows commands
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   10.1 g/dL
   93 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.9 mEq/L
   40 mg/dL
   108 mEq/L
   142 mEq/L
   30.7 %
   16.7 K/uL
        [image002.jpg]
                             [**2154-3-5**]  05:39 AM
                             [**2154-3-5**]  09:54 AM
                             [**2154-3-5**]  04:06 PM
                             [**2154-3-5**]  11:47 PM
                             [**2154-3-6**]  03:54 AM
                             [**2154-3-6**]  03:18 PM
                             [**2154-3-7**]  03:34 AM
   WBC
   16.4
   14.1
   16.7
   Hct
   33.1
   31.2
   30.7
   Plt
   333
   279
   299
   Cr
   1.1
   1.1
   1.2
   1.3
   1.4
   TropT
   0.19
   TCO2
   21
   27
   Glucose
   46
   99
   90
   86
   93
   Other labs: PT / PTT / INR:15.1/38.4/1.3, CK / CKMB /
   Troponin-T:72//0.19, ALT / AST:138/126, Alk Phos / T Bili:319/0.6,
   Amylase / Lipase:55/17, Differential-Neuts:90.9 %, Lymph:6.7 %,
   Mono:2.3 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:300 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   The pt is a 74y/o F with a PMH of CAD, DM, recent diagnosis of
   cholangiocarcinoma with metaseses to the transverse colon s/p resection
   and PEG placement admitted s/p PEA arrest.
   .
   # PEA Arrest - unclear precipitating event.  Her CT scan in concerning
   for RLL pneumonia.   Possible causes of PEA include pneumonia +/-
   mucuous plug causing transient hypoxemia or possible primary
   cardiomyopathy.  Patient has decreased EF to 15-20% unlcear primary or
   secondary to recent code.  Patient also had hyperkalemia (K 6) on
   presentation as nother possible factor.  Ruled out PE with negative
   PE-CTA.
   - successfully extubated
   - follow up infectious etiology workup for sepsis with blood cultures,
   urine cultures (UA clear), sputum culture, would pursue diagnostic
   thoracentesis of R pleural effusion
   - Continue broad spectrum antimicrobials with vanc/zosyn for now
   .
   # Leukocytosis
 Improved since admission.  Most likely due to RLL
   pneumonia.  WBC 19.0 at OSH, 25.3 here with left shift, no fever
   reported. Pt with recent history of MRSA bacteremia and pneumonia
   - continue vanc/zosyn/bactrim as above
   - diagnostic [**Female First Name (un) **] today shows transudative process
   - f/u blood/urine/sputum cultures
   .
   # ARF: Most likely prerenal due to poor forward flow in the pericode
   period.   FeNa is 0.6%.   [**Month (only) 8**] now progress to ATN given recent
   contrast.  Currently appears total body euvolumic to slightly
   hypervolumic.
   -          renally dose meds
   -          avoid nephrotoxins
   -          cont to trend renal function
   .
   # Pleural Effusion - per OSH notes the pt has a history of PNA and R
   sided pleural effusion, unclear if previous diagnostic thoracentesis.
   [**Female First Name (un) **] here shows transudative process.Differential included
   parapneumonic process, mets, and/or effusion secondary to
   cardiomyopathy.
   - w/u as above
   .
   # Metastatic Cholangiocarcinoma - pt with recent diagnosis and
   complicated course including mets to transverse colon s/p resection.
   Tumor unresectable, felt to have poor likelihood of tolerating
   chemotherapy per OSH oncology notes
   - trend LFTs
   - already notified out patient oncologist
   .
   # Guaiac + stools - The pt was found to have grossly + stool guaiac
   from ostomy site.
   - trend HCT
   - Type and Screen
   - IV PPI
   .
   # Bowel obstruction s/p R colectomy
 advance diet
   # CAD s/p CABG [**2147**] - Cotnineu Zocor, holding lasix, ACE-I given
   hypotension
   - started metoprolol will uptitrate as possible
   .
   # Diabetes Mellitus - continue lantus and RISS
   .
   # FEN: bolus IVF, replete electrolytes, tube feeds post procedure
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-3-5**] 10:00 AM
   PICC Line - [**2154-3-6**] 04:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-03-07 10:56:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 THORACENTESIS - At [**2154-3-6**] 11:35 AM
 THORACENTESIS - At [**2154-3-6**] 11:40 AM
   Diagnostic, appx. 30cc removed- transudate
 MULTI LUMEN - STOP [**2154-3-6**] 04:17 PM
 PICC LINE - START [**2154-3-6**] 04:27 PM
 INVASIVE VENTILATION - STOP [**2154-3-6**] 06:55 PM
   extubated yest evening
   UO decreased, didn
t respond to fluid bolus.
   INR improved with Vit K.
   Diagnostic [**Female First Name (un) **]: transudate.
   CXR: pulm edema
   BAL: GNR speciation pend
   Sedation stopped, extubated, with lasix
   Started metoprolol for CMpathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-5**] 09:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-3-7**] 05:32 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-3-6**] 07:02 PM
   Heparin Sodium (Prophylaxis) - [**2154-3-7**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-7**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 82 (74 - 93) bpm
   BP: 135/72(88) {96/49(61) - 135/81(92)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  1,425 mL
                                                                    522 mL
   PO:
   TF:
   IVF:
                                                                  1,305 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                  1,392 mL
                                                                    170 mL
   Urine:
                                                                    742 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 360 (359 - 402) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 4.6 L/min
   Physical Examination
   General: chronically ill-appearing
   HEENT: Sclera anicteric, MMM, oropharynx clear, gag +
   Neck: supple, JVP 9
   Lungs: no crackles, dull R base with bronchial BS, L clear
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, midline incision with pus and erythema, PEG
   tube site C/D/I, ostomy with liquid stool, guaiac +, non-distended,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   Ext: warm, 1+ pulses, no edema, multiple scars lower ext b/l
   Labs / Radiology
   10.1 g/dL
   299 K/uL
   93 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.9 mEq/L
   40 mg/dL
   108 mEq/L
   142 mEq/L
   30.7 %
   16.7 K/uL
        [image002.jpg]
                             [**2154-3-5**]  05:39 AM
                             [**2154-3-5**]  09:54 AM
                             [**2154-3-5**]  04:06 PM
                             [**2154-3-5**]  11:47 PM
                             [**2154-3-6**]  03:54 AM
                             [**2154-3-6**]  03:18 PM
                             [**2154-3-7**]  03:34 AM
   WBC
   16.4
   14.1
   16.7
   Hct
   33.1
   31.2
   30.7
   Plt
   333
   279
   299
   Cr
   1.1
   1.1
   1.2
   1.3
   1.4
   TropT
   0.19
   TCO2
   21
   27
   Glucose
   46
   99
   90
   86
   93
   Other labs: PT / PTT / INR:15.1/38.4/1.3, CK / CKMB /
   Troponin-T:72//0.19, ALT / AST:138/126, Alk Phos / T Bili:319/0.6,
   Amylase / Lipase:55/17, Differential-Neuts:90.9 %, Lymph:6.7 %,
   Mono:2.3 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:300 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:6.1 mg/dL
   Fluid analysis / Other labs: Vanc tr: 20
   Imaging: CXR: pulm edema
   Microbiology: BAL: GNR speciation pend
   cdiff: neg
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER
 WOUND DEHISCENCE
 OLIGURIA/ANURIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 IMPAIRED SKIN INTEGRITY
 .H/O CARDIAC ARREST
   74y/o F with a PMH of CAD, DM, recent diagnosis of cholangiocarcinoma
   with metaseses to the transverse colon s/p resection and PEG placement
   admitted s/p PEA arrest. New cardiomyopathy on TTE. Klebsiella growing
   in RLL mini BAL, extubated successfully.
   Acute Resp Failure: Stable now on 2L post extubation. Zosyn for
   Klebsiella pneumonia (sensitive to Zosyn), follow sputum cx, afebrile.
   Pleural fluid transudate.
   Card: severe cardiomyopathy, new since [**2153**]. Repeat TTE in a few
   days/weeks to look for improvement in global function. Started on beta
   blocker. [**Month (only) 8**] need to consider anticoagulation if EF remains severely
   depressed
   Renal failure: Fena 0.6, likely ATN with contrast nephropathy, JVD
   elevated but no peripheral edema, will let her autoregulate.
   Onc: not a candidate for further [**Last Name (LF) 2051**], [**First Name3 (LF) 77**] oncologist, until
   functional status improves.
   Wound: ostomy nurse [**First Name (Titles) **]
[**Last Name (Titles) **] DM: Lantus half dose + ssi
   I/O: keep even, bolus for UO
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: bedside ss eval
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   20 Gauge - [**2154-3-5**] 10:00 AM
   PICC Line - [**2154-3-6**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: t/b with family reg prognosis
   Code status: Full code
   Disposition : Remains in ICU. [**Month (only) 8**] be ready for transfer to floor later
   today
   Total time spent: 35 minutes